US03957819
2-(3-Hydroxypropylamino)-3-phenyl-3H-indol-3-ol
3-Phenyl-3-hydroxy-3H-indol-2-one (4.5 g.) was heated under reflux with 3-aminopropanol (6.0 g.) in xylene (100 ml.) and toluene-p-sulphonic acid (150 mg) in an apparatus fitted with a water separator. After 24 hours the reaction mixture was cooled. The product crystallised and was filtered off and recrystallised from methanol to give the title compound, 3.81 g., m.p. 215°-217°C. (Found C, 72.4; H, 6.7; N. 9.9, C17H18N2O2 requires C, 72.3; H, 6.4; N, 9.9%).

reactant | 3-Phenyl-3-hydroxy-3H-indol-2-one | 4.5 g | C1(=CC=CC=C1)C1(C(NC2=CC=CC=C12)=O)O | C14H11NO2
reactant | 3-aminopropanol | 6.0 g | NCCCO | C3H9NO
reactant | toluene-p-sulphonic acid | 150 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-(3-Hydroxypropylamino)-3-phenyl-3H-indol-3-ol | OCCCNC1=NC2=CC=CC=C2C1(O)C1=CC=CC=C1 | C17H18N2O2
